US07576074B2
4-[(3,4-Dichloro-2-fluorophenyl)amino]-6-(methyloxy)quinazolin-7-ol trifluoroacetic acid salt (307 mg, 0.655 mmol) was dissolved in dimethylformamide (1 mL) and potassium carbonate (452 mg, 3.28 mmol) was added followed by (3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl methanesulfonate (250 mg, 1.06 mmol). The mixture was stirred at 70° C. for 41 h and then was partitioned between ethyl acetate and water. The aqueous portion was extracted with ethyl acetate. The combined organic portion was dried over sodium sulfate, filtered and concentrated in vacuo to afford an orange oil which was purified by column chromatography (ethyl acetate-ethanol 1:1). The purified material was dissolved in methanol and treated with 4M solution of HCl in 1,4-dioxane (0.1 mL) and the mixture was concentrated in vacuo to afford N-(3,4-dichloro-2-fluorophenyl)-7-{[(3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl]oxy}-6-(methyloxy)quinazolin-4-amine hydrochloride as a pale yellow solid (66 mg, 0.125 mmol, 19% yield). 1H NMR (400 MHz, d6-DMSO): 11.9-11.5 (m, 2H), 8.83 (s, 1H), 8.39-8.35 (m, 1H), 7.69 (dd, 1H), 7.62 (dd, 1H), 7.43 (s, 1H), 4.48-4.24 (m, 4H), 4.04 (s, 3H), 3.97-3.85 (m, 1H), 3.78-2.96 (m, 5H), 2.17-1.90 (m, 3H), 1.72-1.58 (m, 1H); MS (EI) for C23H23N4O3FCl2: 493 (MH+).

reactant | 4-[(3,4-Dichloro-2-fluorophenyl)amino]-6-(methyloxy)quinazolin-7-ol trifluoroacetic acid salt | 0.655 mmol, 307 mg | FC(C(=O)O)(F)F.ClC=1C(=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)O)F
reactant | potassium carbonate | 3.28 mmol, 452 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl methanesulfonate | 1.06 mmol, 250 mg | CS(=O)(=O)OC[C@@H]1CN2[C@H](CO1)CCC2 | C9H17NO4S
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(3,4-dichloro-2-fluorophenyl)-7-{[(3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl]oxy}-6-(methyloxy)quinazolin-4-amine hydrochloride | 0.125 mmol, 66 mg, 19% yield | Cl.ClC=1C(=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1CN2[C@H](CO1)CCC2)F | InChI=1S/C23H23Cl2FN4O3.ClH/c1-31-19-7-15-18(8-20(19)33-11-14-9-30-6-2-3-13(30)10-32-14)27-12-28-23(15)29-17-5-4-16(24)21(25)22(17)26;/h4-5,7-8,12-14H,2-3,6,9-11H2,1H3,(H,27,28,29);1H/t13-,14-;/m0./s1
